US04031225
A mixture of 15.0 g of 10-hydroxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one, 150 ml of epichlorohydrin and 0.7 ml of piperidine is heated to the boil for 30 minutes. After concentration by evaporation at reduced pressure, the mixture is dried at 40°, whereupon a mixture of 10-(2,3-epoxypropoxy)-4H-benzo[4,5]-cyclohepta[1,2-b]thiophen-4-one and 10-(3-chloro-2-hydroxypropoxy)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one is obtained, which is used further as such.

reactant | 10-hydroxy-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | 15.0 g | OC1=CC2=C(C(C3=C1SC=C3)=O)C=CC=C2 | C13H8O2S
reactant | piperidine | 0.7 ml | N1CCCCC1 | C5H11N
reactant | epichlorohydrin | 150 ml | C(Cl)C1CO1 | C3H5ClO
product | 10-(3-chloro-2-hydroxypropoxy)-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-4-one | ClCC(COC1=CC2=C(C(C3=C1SC=C3)=O)C=CC=C2)O | C16H13ClO3S
